US08580762B2
7-((3aS,4R,6R,6aR)-6-(((3-(2-(5-(tert-butyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(isobutyl)amino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine
A solution of N-(2-amino-4-(tert-butyl)phenyl)-3-(3-((((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)(isobutyl)amino)cyclobutyl)propanamide (1.71 g, 2.19 mmol) in Acetic acid (6 ml) was stirred overnight at 60° C., the volatiles were removed in vacuo and the remaining residue was purified by flash chromatography (SiO2, DCM/7N NH3 in MeOH 94:6) to yield the desired compound (0.9 g) as a foam,

reactant | N-(2-amino-4-(tert-butyl)phenyl)-3-(3-((((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)(isobutyl)amino)cyclobutyl)propanamide | 2.19 mmol, 1.71 g | NC1=C(C=CC(=C1)C(C)(C)C)NC(CCC1CC(C1)N(CC(C)C)C[C@H]1C[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C=CC1=C2N=CN=C1NCC1=C(C=C(C=C1)OC)OC)=O | C45H63N7O5
solvent | Acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | 7-((3aS,4R,6R,6aR)-6-(((3-(2-(5-(tert-butyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(isobutyl)amino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.9 g | C(C)(C)(C)C1=CC2=C(NC(=N2)CCC2CC(C2)N(CC(C)C)C[C@H]2C[C@H]([C@H]3[C@@H]2OC(O3)(C)C)N3C=CC2=C3N=CN=C2NCC2=C(C=C(C=C2)OC)OC)C=C1 | C45H61N7O4
